US07547702B2
A solution of 2-(4-bromo-phenyl)-4,7-dichloro-quinazoline (0.085 mmol, 30 mg) [prepared analogously to example 1] in 2 ml THF is treated with benzylamine (0.174 mmol, 0.019 ml). The mixture is heated at 60° for 6 hrs. After cooling to rt, the reaction mixture is filtered through a tentacle ion exchanger (LiChrolut® SCX: Merck ChromBook, 2nd ed. page 31). Evaporation of the solvent afforded benzyl-[2-(4-bromo-phenyl)-7-chloroquinazolin-4-yl]-amine.

reactant | 2-(4-bromo-phenyl)-4,7-dichloro-quinazoline | 0.085 mmol, 30 mg | BrC1=CC=C(C=C1)C1=NC2=CC(=CC=C2C(=N1)Cl)Cl | C14H7BrCl2N2
reactant | benzylamine | 0.174 mmol, 0.019 ml | C(C1=CC=CC=C1)N | C7H9N
solvent | THF | 2 ml | C1CCOC1 | C4H8O
product | benzyl-[2-(4-bromo-phenyl)-7-chloroquinazolin-4-yl]-amine | C(C1=CC=CC=C1)NC1=NC(=NC2=CC(=CC=C12)Cl)C1=CC=C(C=C1)Br | C21H15BrClN3
